US06034096
A sospension of N-isopropyl-1,2,3,4-tetrahydro-3-isoquinolinecarboxylic acid (8.0 g, 36 mmol) in tetrahydrofuran (100 ml) was slowly added to a refluxing suspension of lithium aluminum hydride (2.1 g, 54 mmol) in tetrahydrofuran (100 ml). The mixture was refluxed for two hours, then cooled at room temperature and treated with a mixture of tetrahydrofuran (7 ml) and water (0.9 ml), with 20% sodium hydroxide (2.3 ml) and finally with water (9.2 ml). The white solid was filtered off and the solvent was removed under reduced pressure yielding 5.0 g (yield 68%) of pure N-isopropyl-1,2,3,4-tetrahydroisoquinol-3-ylmethanol as thick oil. 1H-NMR δ7.12 (m, 4H), 4.54 (bs, 1H, exchange with D2O), 3.68 (s, 2H), 3.55-3.35 (m, 2H), 3.20-2.90 (m, 2H), 2.79 (d, 2H), 1.10 (d, 3H), 1.01 (d, 3H).

reactant | N-isopropyl-1,2,3,4-tetrahydro-3-isoquinolinecarboxylic acid | 36 mmol, 8.0 g | C(C)(C)N1CC2=CC=CC=C2CC1C(=O)O | C13H17NO2
reactant | lithium aluminum hydride | 54 mmol, 2.1 g | [H-].[Al+3].[Li+].[H-].[H-].[H-]
reactant | water | 0.9 ml | O | H2O
reactant | sodium hydroxide | 2.3 ml | [OH-].[Na+]
reactant | water | 9.2 ml | O | H2O
solvent | tetrahydrofuran | 100 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 100 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 7 ml | O1CCCC1 | C4H8O
product | N-isopropyl-1,2,3,4-tetrahydroisoquinol-3-ylmethanol | 5.0 g, yield 68% | C(C)(C)N1CC2=CC=CC=C2CC1CO | C13H19NO
